US04643761
2-Chloro-N-(1,1-dimethylethyl)-6-phenylbenzenesulfonamide
A solution of 21.5 g (0.087 mol) 2-chloro-N-t-butylbenzenesulfonamide in anhydrous tetrahydrofuran was cooled to -30° under a nitrogen atmosphere while 121 ml of 1.6M n-butyllithium in hexanes was added over ten minutes. The mixture was then stirred for one hour at room temperature then recooled to below 0° and 16.6 g (0.087 mol) cuprous iodide (Alfa ultrapure grade) was added. After ten minutes at 0°, 10 ml (0.089 mol) iodobenzene was added and the mixture heated to reflux for 18 hours. The suspension was subsequently cooled to below 15° and 20 ml of acetic acid was added followed by 400 ml each of ethyl acetate and concentrated ammonium hydroxide. After stirring vigorously in air for 15 minutes the mixture was filtered, rinsed with water and ethyl acetate and the filtrate separated. The blue aqueous phase was extracted with 200 ml ethyl acetate and the combined organic phase washed successively with 200 ml concentrated ammonium hydroxide, water and brine, then dried and evaporated in vacuo. The solid residue was triturated with ether and collected by filtration to afford 23.5 g (84%) of the title compound, m.p. 168°-170°. An NMR spectrum (90 MHz) in CDCl3 had resonances at 1.10 (s, 9H), 5.08 (s, br, NH), 7.35-7.65 (m, ArH, 8H) ppm.

reactant | 2-chloro-N-t-butylbenzenesulfonamide | 0.087 mol, 21.5 g | ClC1=C(C=CC=C1)S(=O)(=O)NC(C)(C)C | C10H14ClNO2S
reactant | n-butyllithium | 1.6M, 121 ml | C(CCC)[Li]
reactant | iodobenzene | 0.089 mol, 10 ml | IC1=CC=CC=C1 | C6H5I
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-Chloro-N-(1,1-dimethylethyl)-6-phenylbenzenesulfonamide | 23.5 g, 84% | ClC1=C(C(=CC=C1)C1=CC=CC=C1)S(=O)(=O)NC(C)(C)C | C16H18ClNO2S
